US07531532B2
4-[3-(Dimethylamino)azetidin-1-yl]piperidine-1-carboxylic acid [4-(4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyridin-2-yl]amide
After adding (1S)-(+)-10-camphorsulfonic acid (90.7 mg) to a solution of 4-[3-(dimethylamino)azetidin-1-yl]piperidine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide (91.5 mg) in ethanol (2.0 ml), the mixture was stirred for 10 minutes at room temperature. Then, 2-(4-fluorophenyl)acetyl isothiocyanate (1.28 ml, 0.25 M solution in toluene) was added and stirring was carried out at room temperature for 50 minutes. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (Fuji Silysia NH, ethyl acetate, then ethyl acetate:methanol=20:1 to 10:1). Fractions containing the target compounds were combined and concentrated. The residue was then purified by LC-MS (eluent; acetonitrile-water-trifluoroacetic acid system). Fractions containing the target compound were combined and concentrated, and then saturated aqueous sodium hydrogencarbonate was added to the residue. The mixture was extracted with ethyl acetate, and the organic layer was washed with brine and dried over anhydrous sodium sulfate. It was then concentrated, and the obtained precipitate was suspended in diethyl ether-hexane and filtered. The filtered solid was washed with diethyl ether. It was then dried by aspiration to provide the title compound (14.2 mg, 10.5%) as white powder.

reactant | (1S)-(+)-10-camphorsulfonic acid | 90.7 mg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | 4-[3-(dimethylamino)azetidin-1-yl]piperidine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide | 91.5 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CC(C2)N(C)C)C=C1 | C22H30N6O2
reactant | 2-(4-fluorophenyl)acetyl isothiocyanate | 0.25 M, 1.28 ml | FC1=CC=C(C=C1)CC(=O)N=C=S | C9H6FNOS
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | 4-[3-(Dimethylamino)azetidin-1-yl]piperidine-1-carboxylic acid [4-(4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyridin-2-yl]amide | 14.2 mg, 10.5% | FC1=CC=C(C=C1)CC(=O)NC(NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CC(C2)N(C)C)C=C1)=S | C31H36FN7O3S
